US06977262B2
4,7-Dihydro-6-methyl-5-nitro-4-(2-trifluoromethylphenyl)-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from 2-trifluoromethylbenzaldehyde, 3-aminopyrazole and 1-nitropropan-2-one in the same manner as in Example 1.

reactant | 2-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 1-nitropropan-2-one | [N+](=O)([O-])CC(C)=O | C3H5NO3
product | 4,7-Dihydro-6-methyl-5-nitro-4-(2-trifluoromethylphenyl)-2H-pyrazolo[3,4-b]pyridine | CC1=C(C(C=2C(N1)=NNC2)C2=C(C=CC=C2)C(F)(F)F)[N+](=O)[O-] | C14H11F3N4O2
